US06482829B2
8-(3,5-Bis-trifluoromethyl-benzoyl)-1-phenyl-3-(2-piperidin-1-yl-ethyl)-1,3,8-triaza-spiro[4.5]decan-4-one
The title compound, MS: m/e=583.2 (M+H+), was prepared in accordance with the general method of example 4 from 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one and 1-(2-chloroethyl)piperidine hydrochloride.

reactant | 8-(3,5-bis-trifluoromethyl-benzoyl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(NCN3C3=CC=CC=C3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C22H19F6N3O2
reactant | 1-(2-chloroethyl)piperidine hydrochloride | Cl.ClCCN1CCCCC1
product | 8-(3,5-Bis-trifluoromethyl-benzoyl)-1-phenyl-3-(2-piperidin-1-yl-ethyl)-1,3,8-triaza-spiro[4.5]decan-4-one | FC(C=1C=C(C(=O)N2CCC3(C(N(CN3C3=CC=CC=C3)CCN3CCCCC3)=O)CC2)C=C(C1)C(F)(F)F)(F)F | C29H32F6N4O2
